US07132432B2
THF (1.5 mL), Pd(OAc)2 (20 mg, 0.089 mmol, 8% eq) and 1,2-bis(diphenylphosphino)ethane (35.5 mg, 16% eq) were mixed under N2, degassed and stirred to give orange yellow mixture. A premixed solution of (3-trimethylsilanylallyl)-carbamic acid tert-butyl ester (250 mg, 1.09 mmol) from (7b) and 4-(4-iodo-phenoxymethyl)-2-methyl-quinoline (410 mg, 1.0 eq) from (7c) in benzene (3 ml) was added. The resulting mixture was heated at 50° C. over the weekend, then cooled to rt, diluted with ether, washed with water, dried and concentrated. {2-[4-(2-Methyl-quinolin-4-ylmethoxy)-phenyl]-allyl}-carbamic acid tert-butyl ester (65 mg, 14.8%) was obtained after the crude was purified by flash column chromatography (20%–40% ethyl acetate-hexanes). MS Found: (M+H)+=405.

reactant | THF | 1.5 mL | C1CCOC1 | C4H8O
reactant | 1,2-bis(diphenylphosphino)ethane | 35.5 mg | C1(=CC=CC=C1)P(CCP(C1=CC=CC=C1)C1=CC=CC=C1)C1=CC=CC=C1 | C26H24P2
reactant | (3-trimethylsilanylallyl)-carbamic acid tert-butyl ester | 1.09 mmol, 250 mg | C(C)(C)(C)OC(NCC=C[Si](C)(C)C)=O | C11H23NO2Si
reactant | 4-(4-iodo-phenoxymethyl)-2-methyl-quinoline | 410 mg, 1.0 eq | IC1=CC=C(OCC2=CC(=NC3=CC=CC=C23)C)C=C1 | C17H14INO
solvent | benzene | 3 ml | C1=CC=CC=C1 | C6H6
solvent | ether | CCOCC | C4H10O
catalyst | Pd(OAc)2 | 0.089 mmol, 20 mg | CC(=O)[O-].CC(=O)[O-].[Pd+2]
product | {2-[4-(2-Methyl-quinolin-4-ylmethoxy)-phenyl]-allyl}-carbamic acid tert-butyl ester | 65 mg, 14.8% | C(C)(C)(C)OC(NCC(=C)C1=CC=C(C=C1)OCC1=CC(=NC2=CC=CC=C12)C)=O | C25H28N2O3
